US05256675
A mixture of 2-acetylamino-5-(4-nitrophenylthio)thiazole (4.0 g) in a mixture of acetic acid (30 ml) and aqueous 6N hydrochloric acid (9 ml) was refluxed for 3 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in water. The solution was adjusted to pH 8.5 using aqueous sodium bicarbonate. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-amino-5-(4-nitrophenylthio)thiazole (2.6 g, yield: 76.5%). mp: 162°-164° C.

reactant | 2-acetylamino-5-(4-nitrophenylthio)thiazole | 4.0 g | C(C)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3S2
reactant | hydrochloric acid | 6N, 9 ml | Cl | ClH
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-amino-5-(4-nitrophenylthio)thiazole | 2.6 g, yield: 76.5% | NC=1SC(=CN1)SC1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O2S2
